US03959309
3-(Dimethylamino)-6-fluoro-9-(4-fluorophenyl)-1,2,3,4-tetrahydrocarbazole
A solution of 7.8 g. of 4-dimethylaminocyclohexanone and 11 g. of 1,1-bis(4-fluorophenyl)hydrazine in 350 ml. of absolute ethyl alcohol and 90 ml. of 5-N hydrogen chloride in absolute ethyl alcohol was heated under reflux for five hours, cooled, and filtered. The solids were suspended in ether and treated with dilute sodium hydroxide solution and the ether extract was separated, dried and evaporated to dryness. The resulting oil was dissolved in ethyl alcohol, treated with hydrogen chloride in ethyl alcohol and the solution was concentrated and cooled. The resulting solids were collected by filtration to give, after recrystallization from ethyl alcohol, 5.6 g. of 3-(dimethylamino)-6-fluoro-9-(4-fluorophenyl)-1,2,3,4-tetrahydrocarbazole hydrochloride, m.p. 283°-285°C.

reactant | 4-dimethylaminocyclohexanone | CN(C1CCC(CC1)=O)C | C8H15NO
reactant | 1,1-bis(4-fluorophenyl)hydrazine | FC1=CC=C(C=C1)N(N)C1=CC=C(C=C1)F | C12H10F2N2
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3-(Dimethylamino)-6-fluoro-9-(4-fluorophenyl)-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2N(C3=CC=C(C=C3C2C1)F)C1=CC=C(C=C1)F)C | C20H20F2N2
